US07632838B2
1-[4-(2-naphthylsulfonyl)piperidin-1-yl]isoquinoline
Using the procedure from Example 7A, Step 7E, 4-(2-naphthylsulfonyl)piperidine (130 mg, 0.51 mmol) was reacted with 1-chloroisoquinoline (164 mg, 1.0 mmol) to afford the title compound (151 mg), a white solid, in 31% yield.

reactant | 4-(2-naphthylsulfonyl)piperidine | 0.51 mmol, 130 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)C1CCNCC1 | C15H17NO2S
reactant | 1-chloroisoquinoline | 1.0 mmol, 164 mg | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
product | 1-[4-(2-naphthylsulfonyl)piperidin-1-yl]isoquinoline | 151 mg, 31% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)C1CCN(CC1)C1=NC=CC2=CC=CC=C12 | C24H22N2O2S
